US08669234B2
{1-[5-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-3-(2,2,2-trifluoro-ethyl)-imidazolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (148 mg, <257 mmol) was dissolved in m-xylenes (4.0 mL) and heated at 135° C. Solid ammonium acetate (150 mg, 1.9 mmol) was added and the reaction was stirred at 135° C. After 60 minutes, the reaction was cooled to room temperature and the volatiles were removed in vacuo. The crude material was purified via RP-HPLC (eluent: water/MeCN w 0.1% TFA) to yield the product {1-[4-(4-Bromo-phenyl)-1′-(2,2,2-trifluoro-ethyl)-1′,2′,4′,5′-tetrahydro-1H-[2,4′]biimidazolyl-3′-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (15.1 mg) as the TFA salt: LCMS-ESI+: calc'd for C21H25BrF3N5O3: 532.3 (M+). Found: 532.1/534.2 (M+).

reactant | {1-[5-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-3-(2,2,2-trifluoro-ethyl)-imidazolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | <257 mmol, 148 mg | COC(NC(C(C)C)C(=O)N1CN(CC1C(NCC(=O)C1=CC=C(C=C1)Br)=O)CC(F)(F)F)=O | C21H26BrF3N4O5
reactant | ammonium acetate | 1.9 mmol, 150 mg | C(C)(=O)[O-].[NH4+]
product | {1-[4-(4-Bromo-phenyl)-1′-(2,2,2-trifluoro-ethyl)-1′,2′,4′,5′-tetrahydro-1H-[2,4′]biimidazolyl-3′-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | 15.1 mg | COC(NC(C(C)C)C(=O)N1CN(CC1C=1NC=C(N1)C1=CC=C(C=C1)Br)CC(F)(F)F)=O | C21H25BrF3N5O3
